US06274383B1
In the same manner as Example 35(a), O-benzylhydroxylamine hydrochloride (1.92 g, 12 mmol) reacted with N-methyl-5-chloro-isatoic anhydride (2.13 g, 10 mmol) to give 2-methylamino-5 chloro-N-benzyloxylbenzamide as a white solid (1.47 g).

reactant | O-benzylhydroxylamine hydrochloride | 12 mmol, 1.92 g | Cl.C(C1=CC=CC=C1)ON
reactant | N-methyl-5-chloro-isatoic anhydride | 10 mmol, 2.13 g | CN1C=2C(C(=O)OC1=O)=CC(=CC2)Cl | C9H6ClNO3
product | 2-methylamino-5 chloro-N-benzyloxylbenzamide | 1.47 g | CNC1=C(C(=O)NOCC2=CC=CC=C2)C=C(C=C1)Cl | C15H15ClN2O2
